US03957989
2,7-BIS(4-AMINOBUTYRYL)XANTHENE DIHYDROCHLORIDE
2,7-Bis(4-phthalimidobutyryl)xanthene, prepared from 4-phthalimidobutyryl chloride and xanthene by the method of S. S. Cheng et al., J. Med. Chem. 9, 945 (1966), is treated with 700 ml. of hot glacial acetic acid after which 200 ml. of concentrated hydrochloric acid is added gradually with stirring. The mixture is heated to reflux for 24 hours with a constant stream of HCl gas passing through the mixture The reaction mixture is stirred and refluxed for an additional 24 hours, cooled, and the product worked up in the usual manner.

reactant | 2,7-Bis(4-phthalimidobutyryl)xanthene | C1(C=2C(C(N1CCCC(=O)C1=CC=3CC4=CC(=CC=C4OC3C=C1)C(CCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=O)=CC=CC2)=O | C37H28N2O7
reactant | 4-phthalimidobutyryl chloride | C1(C=2C(C(N1CCCC(=O)Cl)=O)=CC=CC2)=O | C12H10ClNO3
reactant | xanthene | C1=CC=CC=2OC3=CC=CC=C3CC12 | C13H10O
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,7-BIS(4-AMINOBUTYRYL)XANTHENE DIHYDROCHLORIDE | Cl.Cl.NCCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCN)=O | InChI=1S/C21H24N2O3.2ClH/c22-9-1-3-18(24)14-5-7-20-16(11-14)13-17-12-15(6-8-21(17)26-20)19(25)4-2-10-23;;/h5-8,11-12H,1-4,9-10,13,22-23H2;2*1H
